* Source File: LM386Blk.asc
* Developer: ETech (eetech00@yahoo.com)
* Created: Feb 28 2016
* Revision: NA
*
* This TI LM386 spice model has
* been tested with LTSpice. Temperature is not modeled.
*
* block symbol definitions
.subckt LM386 G1 INN INP DGND OUT VS BYPASS G8
Q3 N011 N011 DGND 0 NP .2
Q2 N011 N009 N004 0 PN .2
Q1 DGND INN N009 0 PN .2
R1 INN DGND 50k
Q4 N007 N011 DGND 0 NP .2
R2 G1 G8 1.35k
Q5 N007 N010 G1 0 PN .2
Q6 DGND INP N010 0 PN .2
R3 INP DGND 50k
Q7 N008 N007 DGND 0 NP .2
Q8 N006 N012 DGND 0 NP 20
C1 N008 N007 10p
Q9 N012 N008 N006 0 PN .2
R4 OUT N006 0.5
R5 N003 OUT 0.5
R6 OUT G1 15k
Q10 VS N002 N003 0 NP 20
Q11 N002 N001 VS 0 PN .2
R7 BYPASS N004 15k
R8 N001 BYPASS 15k
Q§D2 N002 N002 N005 0 NP 20
R9 N001 DGND 3400
R10 G8 N004 150
Q12 N001 N001 VS 0 PN .2
Q§D1 N005 N005 N008 0 NP 20
*
* generic transistor models generated
* with MicroSim's PARTs utility, using
* default parameters except Bf.
* (but default parameters do not match LTspice defaults): 
.model NP NPN(Is=10f Xti=3 Eg=1.11 Vaf=100
+ Bf=400 Ise=0 Ne=1.5 Ikf=0 Nk=.5 Xtb=1.5 Var=100
+ Br=1 Isc=0 Nc=2 Ikr=0 Rc=0 Cjc=2p Mjc=.3333
+ Vjc=.75 Fc=.5 Cje=5p Mje=.3333 Vje=.75 Tr=10n
+ Tf=1n Itf=1 Xtf=0 Vtf=10)
.model PN PNP(Is=10f Xti=3 Eg=1.11 Vaf=100
+ Bf=200 Ise=0 Ne=1.5 Ikf=0 Nk=.5 Xtb=1.5 Var=100
+ Br=1 Isc=0 Nc=2 Ikr=0 Rc=0 Cjc=2p Mjc=.3333
+ Vjc=.75 Fc=.5 Cje=5p Mje=.3333 Vje=.75 Tr=10n
+ Tf=1n Itf=1 Xtf=0 Vtf=10)
.ends LM386
